*****************************************************************
* NXP PSMN011-60MS
*
* Polarity N-Channel
* Ratings 60V/1.125000E-002OHMS/61.0235584968349A
*
* Date Created Tue May 28 00:28:55 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN011-60MS DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00706323352497789 TC=0.0047859138869008,1.66546611745349E-05
RBD 9 4 0.00188355584074015 TC=0.0047859138869008,1.66546611745349E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.19352174495873e-09
RG 1 2 1.81148

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	661.649
+ -0.5	497.28
+ -0.2	412.029
+ -0.1	410.144
+ 0	387.7401
+ 0.1	337.17124
+ 0.2	336.85676
+ 0.5	294.3504
+ 1	253.12832
+ 2	200.46372
+ 3	175.407
+ 4	162.6082
+ 5	154.8666
+ 6	149.57728
+ 8	142.30436
+ 10	136.96532
+ 12	132.47284
+ 15	126.67292
+ 16	124.86264
+ 20	118.88712
+ 25	112.9376
+ 30	108.3652



.MODEL MINT NMOS(Vto=3.7254656246929 Kp=9.00268e+001 Nfs=800000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=6.61664015352836e-13
+ N=1 M=0.58 VJ=0.5 Fc=0.5 Cjo=8.06369e-10 Tt=1.4224e-08)

.ENDS

